US05106871
Then, 4.3 g of 1-[2-hydroxy-4,6-bis(methoxymethoxy)phenyl]-3-[3,4-bis(methoxymethoxy)phenyl]-1-propanone was dissolved in 16 ml of methanol, and 33 ml of a hydrochloric acid/methanol reagent was added to the solution and the mixture was refluxed for 10 minutes. Then, the reaction liquid was poured into ice water and extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried with anhydrous sodium sulfate and filtered and the solvent was removed from the filtrate by distillation. The obtained residue was subjected to the silica gel column chromatography (160 g of 240-400 mesh silica gel, n-hexane/ethyl acetate=1/1, 0.3 kg/cm2). Fractions of 40 ml were collected and the 28th to 49th fractions were combined, and the solvent was removed by distillation to obtain 933.6 mg (yield=34.9%) of 1-(2,4,6-trihydroxyphenyl)-3-(3,4-dihydroxyphenyl)-1-propanone.

reactant | 1-[2-hydroxy-4,6-bis(methoxymethoxy)phenyl]-3-[3,4-bis(methoxymethoxy)phenyl]-1-propanone | 4.3 g | OC1=C(C(=CC(=C1)OCOC)OCOC)C(CCC1=CC(=C(C=C1)OCOC)OCOC)=O | C23H30O10
reactant | hydrochloric acid methanol | 33 ml | Cl.CO
solvent | methanol | 16 ml | CO | CH4O
product | 1-(2,4,6-trihydroxyphenyl)-3-(3,4-dihydroxyphenyl)-1-propanone | 933.6 mg, yield=34.9% | OC1=C(C(=CC(=C1)O)O)C(CCC1=CC(=C(C=C1)O)O)=O | C15H14O6
